US04851410
3-Amino-4-[4-(4-piperidinomethylpyrazol-1-yloxy)-butylamino]-cyclobutene-1,2-dione
2.5 g of 4-(4-piperidinomethylpyrazol-1-yloxy)butylamine and 1.2 g of 3-amino-4-methoxycyclobutene-1,2-dione are introduced into 80 ml of methanol, and the mixture is stirred for 12 hours at 20° C. The solid formed is then filtered off under suction.

reactant | 4-(4-piperidinomethylpyrazol-1-yloxy)butylamine | 2.5 g | N1(CCCCC1)CC=1C=NN(C1)OCCCCN | C13H24N4O
reactant | 3-amino-4-methoxycyclobutene-1,2-dione | 1.2 g | NC=1C(C(C1OC)=O)=O | C5H5NO3
solvent | methanol | 80 ml | CO | CH4O
product | 3-Amino-4-[4-(4-piperidinomethylpyrazol-1-yloxy)-butylamino]-cyclobutene-1,2-dione | NC=1C(C(C1NCCCCON1N=CC(=C1)CN1CCCCC1)=O)=O | C17H25N5O3
